US04950674
α,α-Bis(4-chlorophenyl)-4-piperidinemethanol
To a slurry of 8.5 g (0.225 mole) of lithium aluminum hydride in 400 ml of anhydrous tetrahydrofuran was added a solution of 39.2 g (0.09 mole) of 4-[bis(4-chlorophenyl)hydroxymethyl]-N,N-diethyl-1-piperidinecarboxamide in 400 ml of tetrahydrofuran in a stream over a 15 min period. The mixture was heated at reflux for 24 hr, cooled, and treated successively with 8.5 ml of water, 25 ml of a 3N sodium hydroxide solution and 8.5 ml of water. The mixture was stirred for 0.5 hr and then filtered. The filtrate was concentrated under reduced pressure to give a gum which crystallized. The solid was triturated with petroleum ether (30°-60° C.), collected by filtration and recrystallized from benzene to yield 10.5 g (35%) of title compound as a white solid. An analytical sample was recrystallized from 2-propanol, mp 184°-188° C.

reactant | lithium aluminum hydride | 0.225 mole, 8.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-[bis(4-chlorophenyl)hydroxymethyl]-N,N-diethyl-1-piperidinecarboxamide | 0.09 mole, 39.2 g | ClC1=CC=C(C=C1)C(C1CCN(CC1)C(=O)N(CC)CC)(O)C1=CC=C(C=C1)Cl | C23H28Cl2N2O2
reactant | water | 8.5 ml | O | H2O
reactant | sodium hydroxide | 3N | [OH-].[Na+]
reactant | water | 8.5 ml | O | H2O
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | α,α-Bis(4-chlorophenyl)-4-piperidinemethanol | 10.5 g, 35% | ClC1=CC=C(C=C1)C(O)(C1CCNCC1)C1=CC=C(C=C1)Cl | C18H19Cl2NO
